US04808210
50 g of 3,4-dichlorophenylhydrazine (85%) and 122.5 g of diethyl sec-butyl-malonate were heated for 10 hours at 180° C. (external temperature) while distilling 21.3 g of ethanol. The remainder was taken up in 200 ml of methylene chloride, and the solution was extracted with 2N sodium hydroxide, then with water. The combined aqueous phases were washed with methylene chloride and acidified to pH 1 by concentrated hydrochloric acid. The precipitate was separated, washed with water, separated, dried under reduced pressure at 40° C. to obtain 64.8 g of 1-(3,4-dichlorophenyl)-4-(sec-butyl)-pyrazolidine-3,5-dione melting at 118°-120° C.

reactant | 3,4-dichlorophenylhydrazine | 50 g | ClC=1C=C(C=CC1Cl)NN | C6H6Cl2N2
reactant | diethyl sec-butyl-malonate | 122.5 g | C(C)(CC)C(C(=O)OCC)C(=O)OCC | C11H20O4
product | 1-(3,4-dichlorophenyl)-4-(sec-butyl)-pyrazolidine-3,5-dione | 64.8 g | ClC=1C=C(C=CC1Cl)N1NC(C(C1=O)C(C)CC)=O | C13H14Cl2N2O2
